US07557131B2
Preparation 74: 3-Hydroxy-2-methylbenzonitrile
A solution of 3-methoxy-2-methylbenzonitrile [(1 g, 6.79 mmol) U.S. Pat. No. 5,965,766, p6] and tetra nbutyl ammonium iodide (4.12 g, 17 mmol) in dichloromethane (15 mL) was cooled to −78° C. and purged with nitrogen. Boron trichloride (1M in dichloromethane, 17 mL, 17 mmol) was added dropwise and the mixture was stirred for 15 minutes at −78° C. and at room temperature for 3 hours. The reaction mixture was quenched with water, stirred for 30 minutes and concentrated in vacuo. The aqueous residue was extracted with diethyl ether and the organic solution was washed with water (×5), dried over magnesium sulfate and concentrated in vacuo to afford the title compound as a brown solid in 91% yield, 826 mg. 1H NMR(400 MHz, CDCl3) δ: 2.20 (s, 3H), 7.10 (m, 1H), 7.20 (d, 1H), 10.10 (s, 1H); LRMS APCI m/z 132 [M−H]−

reactant | 3-methoxy-2-methylbenzonitrile | COC=1C(=C(C#N)C=CC1)C | C9H9NO
reactant | ammonium iodide | 17 mmol, 4.12 g | [I-].[NH4+]
reactant | Boron trichloride | 17 mmol, 1M, 17 mL | B(Cl)(Cl)Cl | BCl3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-Hydroxy-2-methylbenzonitrile | 91% yield | OC=1C(=C(C#N)C=CC1)C | C8H7NO
